US09290451B2
d) [2-Cyclopropyl-1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-carbamic acid tert-butyl ester
To a solution of [2-cyclopropyl-1-(N-hydroxycarbamimidoyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (300 mg, 1.16 mmol) in acetic anhydride (10 mL) was heated to 100° C. and stirred for 5 hours. After evaporation of solvents, the residue was dissolved in H2O (20 mL) and basified by aqueous NaHCO3 solution (pH˜7-8). The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water (20 mL), brine (20 mL), dried over Na2SO4 and concentrated in vacuo. The crude product was purified by column chromatography (silica gel, 100-200 mesh, 20 g, eluting with 20% ethyl acetate in petroleum ether) to give the title compound (0.15 g; 46%) as colorless sticky solid. 1H-NMR (DMSO, 400 MHz): 0.012-0.014 (m, 2H); 0.31-0.38 (m, 2H); 0.56-0.58 (m, 1H); 1.32 (s, 9H); 1.55 (s, 3H); 1.69-1.98 (brs, 2H); 2.56 (s, 3H), 7.19 (br s, 1H).

reactant | [2-cyclopropyl-1-(N-hydroxycarbamimidoyl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 1.16 mmol, 300 mg | C(C)(C)(C)OC(NC(CC1CC1)(C)C(NO)=N)=O | C12H23N3O3
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | [2-Cyclopropyl-1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-carbamic acid tert-butyl ester | 0.15 g, 46% | C(C)(C)(C)OC(NC(CC1CC1)(C1=NOC(=N1)C)C)=O | C14H23N3O3
